US04169893
A solution of 2.2 g. of 1-allyl-4-hydroxy-naphthpyridine-2(1H)-one-3-carboxylic acid t-butyl ester in 25 ml. of acetonitrile is treated with 0.75 ml. of 60% aqueous perchloric acid at 0° C. The resulting precipitate is filtered off and cooled with ester to obtain 1-allyl-4-hydroxy-naphthpyridine-2(1H)-one-3-carboxylic acid.

reactant | 1-allyl-4-hydroxy-naphthpyridine-2(1H)-one-3-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1N(C2=C(C(C1=O)CC=C)C1=CC=CC=C1C=C2)O | C21H23NO4
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-allyl-4-hydroxy-naphthpyridine-2(1H)-one-3-carboxylic acid | C(C=C)C1C(C(N(C2=C1C1=CC=CC=C1C=C2)O)C(=O)O)=O | C17H15NO4
